US04654350
A mixture of 16.76 g of 4-chloro-3-methyl-3H-imidazo(4,5-c)pyridine and 30 g of o-fluorobenzylamine is melted at 180° for 2 hours. After customary working up, 4-o-fluorobenzylamino-3-methyl-3H-imidazo-(4,5-c)pyridine of m.p. 163°-164° is obtained.

reactant | 4-chloro-3-methyl-3H-imidazo(4,5-c)pyridine | 16.76 g | ClC1=NC=CC2=C1N(C=N2)C | C7H6ClN3
reactant | o-fluorobenzylamine | 30 g | FC1=C(CN)C=CC=C1 | C7H8FN
product | 4-o-fluorobenzylamino-3-methyl-3H-imidazo-(4,5-c)pyridine | FC1=C(CNC2=NC=CC3=C2N(C=N3)C)C=CC=C1 | C14H13FN4
